US09428495B2
To a stirred solution of 2-ethyloxirane, 103 (621 mg, 8.61 mmol, R=ethyl) in DCM (60 mL) was added benzylamine (996 mg, 9.30 mmol) followed by scandium triflate (341 mg, 0.693 mmol) under a nitrogen atmosphere. The reaction mixture was stirred at rt for 20 h after which time the completed reaction was quenched with saturated NaHCO3 (20 mL), extracted three times with DCM (10 mL each), and the combined organic layers was dried over MgSO4, filtered and concentrated to dry. The crude product was purified over silica gel (Biotage 25 g, eluting with a 10:10:0.1 ratio of heptanes:EtOAc:TEA) to provide 1,1′-(benzylazanediyl)bis(butan-2-ol), 104 (658 mg, 2.628 mmol, 30.4% yield, R=ethyl) after concentration of the combined desired fractions and drying in vacuo.

reactant | 2-ethyloxirane | C(C)C1OC1 | C4H8O
reactant | benzylamine | 9.30 mmol, 996 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
catalyst | scandium triflate | 0.693 mmol, 341 mg | [O-]S(=O)(=O)C(F)(F)F.[Sc+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
product | 1,1′-(benzylazanediyl)bis(butan-2-ol) | 30.4% yield | C(C1=CC=CC=C1)N(CC(CC)O)CC(CC)O | C15H25NO2
